US09255097B2
2-(4-amino-piperidin-1-yl)-4-(4-cyano-3-fluoro-phenyl)-1-methyl-6-oxo-1,6-dihydro-pyrimidine-5-carbonitrile
To a solution of {1-[5-cyano-4-(4-cyano-3-fluoro-phenyl)-1-methyl-6-oxo-1,6-dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester (150 mg, 0.33 mmol) in EA (5 mL) was added a 5N HCl solution in EA (5 mL). The reaction mixture was stirred at RT for 2 h, and the solvent was concentrated in vacuo to give 120 mg of the title product as HCl salt (94%). 1H NMR (400 MHz, CD3OD): δ 1.67-1.72 (m, 2H), 2.02-2.06 (m, 2H), 3.13-3.16 (m, 2H), 3.34-3.38 (m, 1H), 3.42 (s, 3H), 3.98-4.02 (m, 2H), 7.82-7.90 (m, 3H). [M+H] Calc'd for C18H17FN6O, 353. Found, 353.

reactant | {1-[5-cyano-4-(4-cyano-3-fluoro-phenyl)-1-methyl-6-oxo-1,6-dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester | 0.33 mmol, 150 mg | C(C)(C)(C)OC(NC1CCN(CC1)C=1N(C(C(=C(N1)C1=CC(=C(C=C1)C#N)F)C#N)=O)C)=O | C23H25FN6O3
reactant | HCl | 5N | Cl | ClH
solvent | EA | 5 mL | CC(OCC)=O | C4H8O2
solvent | EA | 5 mL | CC(OCC)=O | C4H8O2
product | 2-(4-amino-piperidin-1-yl)-4-(4-cyano-3-fluoro-phenyl)-1-methyl-6-oxo-1,6-dihydro-pyrimidine-5-carbonitrile | 120 mg | NC1CCN(CC1)C=1N(C(C(=C(N1)C1=CC(=C(C=C1)C#N)F)C#N)=O)C | C18H17FN6O
